US05736548
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (1.05 g, 4.73 mmol), 3-[2-(4-morpholinyl)ethoxy]benzaldehyde (1.67 g) and xylenes (7 ml) was heated to 160° C. overnight. Additional aldehyde (0.4 g) was added and the mixture was heated at 160° C. until the reaction was complete. The reaction mixture was cooled to room temperature and a solid formed which was collected by filtration and washed with ether. The filtrate was concentrated to dryness and the residue was combined with the solid and was purified by column chromatography on silica gel eluting with ethyl acetate/ethanol (60/40). The solid product thus obtained was washed with ether, recrystallized from ethyl acetate and then washed with ether again to afford 1-cyclopentyl-3-ethyl-6-[3-[2-(4-morpholinyl)ethoxy]phenyl]-pyrazolo[3,4-d]pyrimidin-4-one, m.p. 173°-176° C.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 4.73 mmol, 1.05 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 3-[2-(4-morpholinyl)ethoxy]benzaldehyde | 1.67 g | N1(CCOCC1)CCOC=1C=C(C=O)C=CC1 | C13H17NO3
product | 1-cyclopentyl-3-ethyl-6-[3-[2-(4-morpholinyl)ethoxy]phenyl]-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC(=CC=C2)OCCN2CCOCC2)CC | C24H31N5O3
